US06107329
5-Fluoro-1H-indole-2-carboxylic acid {1-[2-(5-methoxy-1H-indol-3-yl)-ethylcarbamoyl]-2-phenyl-ethyl}-amide
To 5.0 μmol of 2-[(5-fluoro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionic acid (50 μL of a 0.1 mM solution in dimethylformamide) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (50 μL of a 0.11 mM solution in DMF, 5.5 μmol) followed by 5-methoxytryptamine (50 μL of a 0.11 mM solution in DMF, 5.5 μmol). The reaction was agitated for 3 days and then concentated to dryness. The crude product was partitioned between chloroform (0.5 mL) and water (0.25 mL) and the organic layer was then concentrated to give the title compound. TSPMS ion (expected) 499 (499); HPLC RT 6.78 (25%).

reactant | 2-[(5-fluoro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionic acid | 5.0 μmol | FC=1C=C2C=C(NC2=CC1)C(=O)NC(C(=O)O)CC1=CC=CC=C1 | C18H15FN2O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
reactant | 5-methoxytryptamine | COC1=CC=C2NC=C(CCN)C2=C1 | C11H14N2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-Fluoro-1H-indole-2-carboxylic acid {1-[2-(5-methoxy-1H-indol-3-yl)-ethylcarbamoyl]-2-phenyl-ethyl}-amide | COC=1C=C2C(=CNC2=CC1)CCNC(=O)C(CC1=CC=CC=C1)NC(=O)C=1NC2=CC=C(C=C2C1)F | C29H27FN4O3
